US07893258B2
Preparation of 2-(2-ethyl-oxazolidin-3-yl)-ethanol
To a 250 mL flask containing diethanolamine (2.9 mL, 30 mmol d=1.0955) in dichloromethane (60 mL) under nitrogen atmosphere, was added potassium carbonate (8.3 g, 60 mmol, 2 eq.) before adding at 0° C. dropwise propionaldehyde (2.73 mL, 37.5 mmol, 1.25 eq.). The reaction was warmed to room temperature and stirred for 3 h. The potassium carbonate was filtered with a sinter funnel and washed several times with dichloromethane. After evaporation of the combined organic phases, 4.994 g of crude product was obtained. The product was purified by distillation under vacuum to give the title compound (3.87 g, 87% yield). 1H NMR (CDCl3, 400 MHz) d?(ppm): 3.93 (dd, J=4.3 Hz, J=6.4 Hz, H); 3.92-3.82 (m, 2H); 3.71-3.58 (m, 2H); 3.26 (ddd, J=5.5 Hz, J=6.5 Hz, J=12.2 Hz, H); 2.83 (ddd, J=4.9 Hz, J=8.2 Hz, J=12.7 Hz, H); 2.66 (dt, J=7.0 Hz, J=110.0 Hz, H); 2.55 (dt, J=3.9 Hz, J=12.2 Hz, H); 1.60 (ddq, J=4.3 Hz, J=7.4 Hz, J=14.1 Hz); 1.51 (ddq, J=6.4 Hz, J=7.4 Hz, J=14.1 Hz); 0.95 (t, J=7.4 Hz, 3H). 13C NMR (CDCl3, 129.9 MHz) d?(ppm): 97.5; 64.1; 60.0; 55.1; 51.7; 26.8; 8.9.

reactant | diethanolamine | 30 mmol, 2.9 mL | N(CCO)CCO | C4H11NO2
reactant | potassium carbonate | 60 mmol, 8.3 g, 2 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | propionaldehyde | 37.5 mmol, 2.73 mL, 1.25 eq. | C(CC)=O | C3H6O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 2-(2-ethyl-oxazolidin-3-yl)-ethanol | 3.87 g, 87% yield | C(C)C1OCCN1CCO | C7H15NO2
